US07030142B1
Synthesis of Ziprasidone Sulfoxide
To a solution of ziprasidone made as described in Example 1 (0.70 g, 1.7 mmol) in acetonitrile is added 30% H2O2 (1.7 mmol). After stirring for 24 hours at room temperature, the reaction mixture is cooled, filtered, and evaporated. The residue is chromatographed on silica gel, eluting the by-products with ethyl acetate (1 L) and the product with 4% methanol in ethyl acetate (1.5 L). The product fractions are evaporated, taken up in methylene chloride, and precipitated by addition of ether saturated with HCl; the solid is filtered and washed with ether, dried, and washed with acetone.

reactant | ziprasidone | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5 | C21H21ClN4OS
reactant | H2O2 | 1.7 mmol | OO | H2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | Ziprasidone Sulfoxide | C1CN(CCN1CCC2=C(C=C3C(=C2)CC(=O)N3)Cl)C4=NS(=O)C5=CC=CC=C54 | C21H21ClN4O2S
